US09290451B2
b) 6-Cyclopropylmethoxy-5-(3-hydroxy-azetidin-1-yl)-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
5-Bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide (150 mg, 380 μmol) was dissolved in toluene (6.0 mL) to give a colorless solution. This solution was degassed under an Argon stream for 5 minutes. Cesium carbonate (371 mg, 1.14 mmol), Pd2(dba)3CHCl3 (39.3 mg, 38.0 μmol), [rac]-BINAP (47.3 mg, 75.9 μmol) and 3-azetidinol hydrochloride (1:1) (CAN 18621-18-6; 49.9 mg, 455 μmol) were added and the mixture was heated for 18 hours in a microwave oven to 100° C. After cooling to room temperature the mixture was diluted with ethyl acetate (5 mL) and water (3 mL), filtered through Celite® and the filter pad was washed with water (10 mL) and ethyl acetate (30 mL). Phases were separated and the aqueous phase was extracted with ethyl acetate (20 mL). Organic phases were combined, dried with Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography (silica gel. 20 g, 0% to 100% ethyl acetate in heptane) to give the title compound (80 mg, 54%) as yellow solid; NMR complies.

reactant | 5-Bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | 380 μmol, 150 mg | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)Br)OCC1CC1 | C16H19BrN4O3
reactant | Cesium carbonate | 1.14 mmol, 371 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-azetidinol hydrochloride | 455 μmol, 49.9 mg | Cl.N1CC(C1)O
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
product | 6-Cyclopropylmethoxy-5-(3-hydroxy-azetidin-1-yl)-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | 80 mg, 54% | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)N1CC(C1)O)OCC1CC1 | C19H25N5O4
